US08022223B2
Step A: Preparation of 3-(2-bromo-4-(trifluoromethyl)phenoxy)pyridin-2-amine:
A mixture of 2-aminopyridin-3-ol (1.00 g, 9.08 mmol) and DMF (20 mL) was cooled in a 0° C. bath and sodium hydride (0.240 g, 9.49 mmol) was slowly added in portions with vigorous stirring (significant gas evolution). After the addition was completed, the mixture was stirred at ambient temperature for 30 minutes to ensure all the NaH was consumed (reaction becomes very viscous). The 2-bromo-1-fluoro-4-(trifluoromethyl)benzene (1.17 mL, 8.26 mmol) was added and the mixture heated to 110° C. under nitrogen overnight. The reaction was cooled to ambient temperature and the DMF removed under reduced pressure. The resulting black sludge was quenched with 0.5 N NaOH (100 mL) and extracted with Et2O). The organic layer was washed with 1N NaOH and brine, dried over sodium sulfate, filtered and concentrated to afford a brown solid. The solids were purified on silica gel eluting with 40% EtOAc/Hexanes to afford 3-(2-bromo-4-(trifluoromethyl)phenoxy)pyridin-2-amine the title compound.

reactant | 2-aminopyridin-3-ol | 9.08 mmol, 1.00 g | NC1=NC=CC=C1O | C5H6N2O
reactant | sodium hydride | 9.49 mmol, 0.240 g | [H-].[Na+]
reactant | 2-bromo-1-fluoro-4-(trifluoromethyl)benzene | 8.26 mmol, 1.17 mL | BrC1=C(C=CC(=C1)C(F)(F)F)F | C7H3BrF4
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(2-bromo-4-(trifluoromethyl)phenoxy)pyridin-2-amine | BrC1=C(OC=2C(=NC=CC2)N)C=CC(=C1)C(F)(F)F | C12H8BrF3N2O
